US07902226B2
7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-hydroxy-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of ethyl 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-hydroxy-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (325 mg, 1.005 mmol), acetic acid (3 ml) and concentrated hydrochloric acid (1.5 ml) was heated under reflux for 2 hours in an oil bath at 120° C. After then adding water (30 ml) and cooling with ice, the crystals formed were filtered out and then washed with water, 5% aqueous ethanol solution, and diethyl ether to obtain 267 mg (90%) of the title compound as a pale-yellow powder.

reactant | ethyl 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-hydroxy-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.005 mmol, 325 mg | FC1=CC(=C2C(C(=CN(C2=C1C)[C@H]1[C@H](C1)F)C(=O)OCC)=O)O | C16H15F2NO4
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-hydroxy-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 267 mg, 90% | FC1=CC(=C2C(C(=CN(C2=C1C)[C@H]1[C@H](C1)F)C(=O)O)=O)O | C14H11F2NO4
